************************************************************************
* auCdl Netlist:
* 
* Library Name:  391_Project
* Top Cell Name: DFF
* View Name:     schematic
* Netlisted on:  Mar  7 11:32:26 2013
************************************************************************

*.EQUATION
*.SCALE METER
*.MEGA
.PARAM

*.GLOBAL vdd!
+        gnd!

*.PIN vdd!
*+    gnd!

************************************************************************
* Library Name: Niko_Symbols
* Cell Name:    NAND
* View Name:    schematic
************************************************************************

.SUBCKT NAND A B GND Output VDD
*.PININFO A:I B:I GND:I VDD:I Output:O
MM2 Output B VDD VDD PMOS_VTG W=1.44u L=50n m=1
MM0 Output A VDD VDD PMOS_VTG W=1.44u L=50n m=1
MM3 net17 B GND GND NMOS_VTG W=1.63u L=50n m=1
MM1 Output A net17 GND NMOS_VTG W=1.63u L=50n m=1
.ENDS

************************************************************************
* Library Name: Niko_Symbols
* Cell Name:    INVERTER
* View Name:    schematic
************************************************************************

.SUBCKT INVERTER GND Input Output VDD
*.PININFO GND:I Input:I VDD:I Output:O
MM0 Output Input GND GND NMOS_VTG W=1.44u L=50n m=1
MM1 Output Input VDD VDD PMOS_VTG W=1.96u L=50n m=1
.ENDS

************************************************************************
* Library Name: 391_Project
* Cell Name:    DFF
* View Name:    schematic
************************************************************************

.SUBCKT DFF CLK D Q Qn
*.PININFO CLK:I D:I Q:O Qn:O
XI18 net25 net5 gnd! net3 vdd! / NAND
XI17 net9 D gnd! net5 vdd! / NAND
XI16 net14 CLK gnd! net9 vdd! / NAND
XI15 net19 CLK gnd! net25 vdd! / NAND
XI14 net5 net25 gnd! net19 vdd! / NAND
XI13 Q net9 gnd! Qn vdd! / NAND
XI12 net25 Qn gnd! Q vdd! / NAND
XI19 gnd! net3 net14 vdd! / INVERTER
.ENDS

