************************************************************************
* auCdl Netlist:
* 
* Library Name:  Grants_Calculator_Repository
* Top Cell Name: FA
* View Name:     schematic
* Netlisted on:  Mar  5 18:57:50 2013
************************************************************************

*.EQUATION
*.SCALE METER
*.MEGA
.PARAM

*.GLOBAL vdd!
+        gnd!

*.PIN vdd!
*+    gnd!

************************************************************************
* Library Name: Niko_Symbols
* Cell Name:    NAND
* View Name:    schematic
************************************************************************

.SUBCKT NAND A B GND Output VDD
*.PININFO A:I B:I GND:I VDD:I Output:O
MM2 Output B VDD VDD PMOS_VTG W=1.44u L=50n m=1
MM0 Output A VDD VDD PMOS_VTG W=1.44u L=50n m=1
MM3 net17 B GND GND NMOS_VTG W=1.63u L=50n m=1
MM1 Output A net17 GND NMOS_VTG W=1.63u L=50n m=1
.ENDS

************************************************************************
* Library Name: Niko_Symbols
* Cell Name:    INVERTER
* View Name:    schematic
************************************************************************

.SUBCKT INVERTER GND Input Output VDD
*.PININFO GND:I Input:I VDD:I Output:O
MM0 Output Input GND GND NMOS_VTG W=1.44u L=50n m=1
MM1 Output Input VDD VDD PMOS_VTG W=1.96u L=50n m=1
.ENDS

************************************************************************
* Library Name: Niko_Symbols
* Cell Name:    XOR
* View Name:    schematic
************************************************************************

.SUBCKT XOR A B GND Output VDD
*.PININFO A:I B:I GND:I VDD:I Output:O
XI5 A net9 GND net7 VDD / NAND
XI7 net7 net4 GND Output VDD / NAND
XI6 B net015 GND net4 VDD / NAND
XI17 GND A net015 VDD / INVERTER
XI8 GND B net9 VDD / INVERTER
.ENDS

************************************************************************
* Library Name: Grants_Calculator_Repository
* Cell Name:    FA
* View Name:    schematic
************************************************************************

.SUBCKT FA A B Cin Cout S
*.PININFO A:I B:I Cin:I Cout:O S:O
XI3 net14 Cin gnd! S vdd! / XOR
XI2 A B gnd! net14 vdd! / XOR
XI6 net14 Cin gnd! net16 vdd! / NAND
XI5 net16 net15 gnd! Cout vdd! / NAND
XI4 A B gnd! net15 vdd! / NAND
.ENDS

