************************************************************************
* auCdl Netlist:
* 
* Library Name:  Grants_Calculator_Repository
* Top Cell Name: NOR
* View Name:     schematic
* Netlisted on:  Mar  5 18:41:26 2013
************************************************************************

*.EQUATION
*.SCALE METER
*.MEGA
.PARAM

*.GLOBAL gnd!
+        vdd!

*.PIN gnd!
*+    vdd!

************************************************************************
* Library Name: Grants_Calculator_Repository
* Cell Name:    NOR
* View Name:    schematic
************************************************************************

.SUBCKT NOR A B Output
*.PININFO A:I B:I Output:O
MM3 Output B gnd! gnd! NMOS_VTG W=720.0n L=50n m=1
MM0 Output A gnd! gnd! NMOS_VTG W=720.0n L=50n m=1
MM2 net14 B vdd! vdd! PMOS_VTG W=1.56u L=50n m=1
MM1 Output A net14 vdd! PMOS_VTG W=1.56u L=50n m=1
.ENDS

