************************************************************************
* auCdl Netlist:
* 
* Library Name:  391_Project
* Top Cell Name: INPUT
* View Name:     schematic
* Netlisted on:  Mar  7 12:49:55 2013
************************************************************************

*.EQUATION
*.SCALE METER
*.MEGA
.PARAM

*.GLOBAL vdd!
+        gnd!

*.PIN vdd!
*+    gnd!

************************************************************************
* Library Name: Niko_Symbols
* Cell Name:    NAND
* View Name:    schematic
************************************************************************

.SUBCKT NAND A B GND Output VDD
*.PININFO A:I B:I GND:I VDD:I Output:O
MM2 Output B VDD VDD PMOS_VTG W=1.44u L=50n m=1
MM0 Output A VDD VDD PMOS_VTG W=1.44u L=50n m=1
MM3 net17 B GND GND NMOS_VTG W=1.63u L=50n m=1
MM1 Output A net17 GND NMOS_VTG W=1.63u L=50n m=1
.ENDS

************************************************************************
* Library Name: Niko_Symbols
* Cell Name:    INVERTER
* View Name:    schematic
************************************************************************

.SUBCKT INVERTER GND Input Output VDD
*.PININFO GND:I Input:I VDD:I Output:O
MM0 Output Input GND GND NMOS_VTG W=1.44u L=50n m=1
MM1 Output Input VDD VDD PMOS_VTG W=1.96u L=50n m=1
.ENDS

************************************************************************
* Library Name: Niko_Symbols
* Cell Name:    DFF
* View Name:    schematic
************************************************************************

.SUBCKT DFF CLK D GND Q Qn VDD
*.PININFO CLK:I D:I GND:I VDD:I Q:O Qn:O
XI18 net25 net5 GND net3 VDD / NAND
XI17 net9 D GND net5 VDD / NAND
XI16 net14 CLK GND net9 VDD / NAND
XI15 net19 CLK GND net25 VDD / NAND
XI14 net5 net25 GND net19 VDD / NAND
XI13 Q net9 GND Qn VDD / NAND
XI12 net25 Qn GND Q VDD / NAND
XI19 GND net3 net14 VDD / INVERTER
.ENDS

************************************************************************
* Library Name: Niko_Symbols
* Cell Name:    MUX
* View Name:    schematic
************************************************************************

.SUBCKT MUX A B GND Output S VDD
*.PININFO A:I B:I GND:I S:I VDD:I Output:O
XI5 A net9 GND net7 VDD / NAND
XI7 net7 net4 GND Output VDD / NAND
XI6 S B GND net4 VDD / NAND
XI8 GND S net9 VDD / INVERTER
.ENDS

************************************************************************
* Library Name: 391_Project
* Cell Name:    INPUT
* View Name:    schematic
************************************************************************

.SUBCKT INPUT A0 A0N A1 A1N A2 A2N A3 A3N B0 B00 B0N B1 B1N B2 B2N B3 B3N B10 
+ B20 B30 CLK I0 I1 I2 I3 O0 O1 O2 O3 S0 S00 S0N S1 S1N S2 S10
*.PININFO B00:I B10:I B20:I B30:I CLK:I I0:I I1:I I2:I I3:I O0:I O1:I O2:I 
*.PININFO O3:I S00:I S2:I S10:I A0:O A0N:O A1:O A1N:O A2:O A2N:O A3:O A3N:O 
*.PININFO B0:O B0N:O B1:O B1N:O B2:O B2N:O B3:O B3N:O S0:O S0N:O S1:O S1N:O
XI21 CLK net82 gnd! A3 A3N vdd! / DFF
XI20 CLK net80 gnd! A2 A2N vdd! / DFF
XI19 CLK net79 gnd! A1 A1N vdd! / DFF
XI18 CLK net81 gnd! A0 A0N vdd! / DFF
XI17 CLK B30 gnd! B3 B3N vdd! / DFF
XI16 CLK B20 gnd! B2 B2N vdd! / DFF
XI15 CLK B10 gnd! B1 B1N vdd! / DFF
XI14 CLK B00 gnd! B0 B0N vdd! / DFF
XI13 CLK S10 gnd! S1 S1N vdd! / DFF
XI12 CLK S00 gnd! S0 S0N vdd! / DFF
XI26 O3 I3 gnd! net82 S2 vdd! / MUX
XI25 O2 I2 gnd! net80 S2 vdd! / MUX
XI24 O1 I1 gnd! net79 S2 vdd! / MUX
XI23 O0 I0 gnd! net81 S2 vdd! / MUX
.ENDS

